US06410550B1
B) 6-Fluoro-1,2,3,4-tetrahydro-1,4-methano-naphthalene-2,3-diol
6-Fluoro-1,4-dihydro-1,4-methano-naphthalene (680 mg, 4.22 mmol) and N-methyl morpholine N-oxide (599 mg, 4.43 mmol) were stirred in acetone (50 mL) and H2O (5 mL). To this was added a solution of OsO4 (0.2 mL, 2.5% wt. solution in t-BuOH, 0.02 mmol). After 72 hours, florisil (5 g) and saturated aqueous NaHSO3 solution (3 mL) were added and stirred for 1 hour. The florisil was filtered and the filtrate concentrated to produce a crystalline product which was triturated with acetone and filtered (524 mg, 64%) 1H NMR (400 MHz. CDCl3) δ7.10(dd, J=8.0,5.0 Hz, 1H), 6.90 (dd, J=8.0,2.3 Hz, 1H), 6.75 (ddd, J=8.0,8.0,2.3 Hz, 1H), 3.79 (s, 2H), 3.18 (d, J=1.5 Hz, 2H), 2.22 (d, J=10.0 Hz, 1H), 1.92 (dd, J=10.0,1.5 Hz, 1H). GCMS m/e 194 (M+).

reactant | 6-Fluoro-1,4-dihydro-1,4-methano-naphthalene | 4.22 mmol, 680 mg | FC=1C=C2C3C=CC(C2=CC1)C3 | C11H9F
reactant | N-methyl morpholine N-oxide | 4.43 mmol, 599 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | florisil | 5 g | [O-][Si](=O)[O-].[Mg+2]
reactant | NaHSO3 | 3 mL | OS(=O)[O-].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | H2O | 5 mL | O | H2O
catalyst | OsO4 | 0.02 mmol, 0.2 mL | O=[Os](=O)(=O)=O
product | 6-Fluoro-1,2,3,4-tetrahydro-1,4-methano-naphthalene-2,3-diol | FC=1C=C2C3C(C(C(C2=CC1)C3)O)O | C11H11FO2
